US05618821
To a suspension of 1.12 g (4.34 mmol) of 4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol, 0.87 g (1.2 eq) of 2-chloro-5-(3-hydroxypropyl)-pyridine, 1.4 g (1.2 eq) of triphenylphosphine in 50 ml of methylene chloride under nitrogen at 0° C. was added dropwise a solution of 0.86 g (1.2 eq) of DEAD in 5 ml of methylene chloride. The mixture was stirred under nitrogen at room temperature for 60 h, concentrated in vacuo and the residue was triturated with hexane/ethyl acetate, filtered, and the filtrate was concentrated in vacuo to yield a dark brown oil. The brown oil was purified by MPLC (50 id, Kieselgel 60 column, hexane/ethyl acetate, 3:1) to afford 1.4 g (78%) of 2-chloro-5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine, as a white crystalline solid, m.p. 89°-91° C.

reactant | 4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol | 4.34 mmol, 1.12 g | FC(C1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C)(F)F | C11H9F3N2O2
reactant | 2-chloro-5-(3-hydroxypropyl)-pyridine | 0.87 g, 1.2 eq | ClC1=NC=C(C=C1)CCCO | C8H10ClNO
reactant | triphenylphosphine | 1.4 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.86 g, 1.2 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine | 1.4 g, 78% | ClC1=NC=C(C=C1)CCCOC1=C(C=C(C=C1C)C1=NOC(=N1)C(F)(F)F)C | C19H17ClF3N3O2
